US04587341
A. N-Ethyl-1,2,3,4-tetrahydro-4-methylquinoline
4-Methylquinoline (lepidine) (1.43 g, 10 mmol) and 50 ml of glacial acetic acid were added together and cooled to 10° C. Sodium cyanoborohydride (2.64 g, 42 mmol) was added gradually, and the reaction was stirred at 25° for 2 hours, and then heated at 55° for 11/2 hours. After stirring overnight at 25°, the reaction was neutralised with concentrated ammonium hydroxide to pH 10.5, and then the product was extracted into methylene chloride and evaporated. The crude product was purified on a silica gel column eluting with hexane to give 0.55 g (31% yield) of the title compound. MS: 175 (M+), 160 (M+ -Me); NMR: CDCl3 δ 1.22 (tr, J=7 Hz, 3, NCH2Me), 1.30 (d, J=3.5, 3, CHMe), 1.5-2.3 (m, 2, CH2), 2.89 (sextet, 1, CHMe), 3.29 (tr, 2, NCH2), 3.30 (quartet, 2, NCH2Me), 6.59 (m-tr, 2, Ar), 7.10 (m-tr, 2, Ar).

reactant | 4-Methylquinoline | 10 mmol, 1.43 g | CC1=CC=NC2=CC=CC=C12 | C10H9N
reactant | Sodium cyanoborohydride | 42 mmol, 2.64 g | C(#N)[BH3-].[Na+]
reactant | ammonium hydroxide | [OH-].[NH4+]
reactant | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | N-Ethyl-1,2,3,4-tetrahydro-4-methylquinoline | 0.55 g, 31% yield | C(C)N1CCC(C2=CC=CC=C12)C | C12H17N
